US04663319
Sodium hydride (a 60% dispersion in oil) (1.50 g) is suspended in N,N-dimethylformamide (100 ml) and a solution of ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate (10.0 g) in dimethylformamide (250 ml) is added dropwise thereto at 4° to 5° C. The mixture is stirred at the same temperature for 30 minutes. A solution of ethyl acrylate (4.1 ml) in dimethylformamide (100 ml) is added dropwise to the mixture, and the mixture is stirred at the same temperature for one hour and then at room temperature for 5 hours. The mixture is poured into ice-water, and the aqueous solution is extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. The residue is recrystallized from a mixture of n-hexane and ethyl acetate, whereby ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-3-carboxylate (8.76 g ) is obtained as pale yellow needles. Yield: 75%.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate | 10.0 g | S1C(SC=C1)=C(C(=O)OCC)C(NCC1=CC=CC=C1)=O | C15H15NO3S2
reactant | ethyl acrylate | 4.1 ml | C(C=C)(=O)OCC | C5H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-3-carboxylate | 8.76 g, Yield: 75% | C(C1=CC=CC=C1)N1CC(C(C(C1=O)=C1SC=CS1)=O)C(=O)OCC | C18H17NO4S2
